US07291635B2
A solution of the title H compound, (S)-2-acetylamino-N-((S)-2-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-3-phenyl-propionamide (124 mg, 0.183 mmol) in TFA (3 mL) containing t-butyidimethylsilane (0.091 mL, 0.548 mmol) is heated at 80° C. for 30 min, then concentrated under nitrogen stream to give an oil containing a fine dark suspension. The product is taken up in 60% MeCN in water and water (1 mL) is added. The mixture filtered through a 0.1 micron Acrodisc filter and the filtrate is loaded onto a preparative reverse phase HPLC column (YMC CombiPrep Pro C18, 50×20 mm I.D., particle size S-5 micron, 12 nM) in five aliquots and eluted at 30 mL/min with a gradient of 90:10 (0.1% TFA in water:MeCN) to 10:90 over 5 min. Then held at 10:90 until 7 min. Fractions containing product are combined and concentrated on a Savant Speedvac to yield (S)-2-acetylamino-N-{(S)-1-pentylcarbamoyl-2-[3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-3-phenyl-propionamide as a white foam: [M+1]+=558.

reactant | (S)-2-acetylamino-N-((S)-2-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-3-phenyl-propionamide | 0.183 mmol, 124 mg | C(C)(=O)N[C@H](C(=O)N[C@@H](CC1=CC(=CC=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)C(NCCCCC)=O)CC1=CC=CC=C1 | C35H43N5O7S
reactant | t-butyidimethylsilane | 0.548 mmol, 0.091 mL | C(C)(C)(C)[SiH](C)C | C6H16Si
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeCN | CC#N | C2H3N
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
product | (S)-2-acetylamino-N-{(S)-1-pentylcarbamoyl-2-[3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-3-phenyl-propionamide | C(C)(=O)N[C@H](C(=O)N[C@@H](CC1=CC(=CC=C1)N1S(NC(C1)=O)(=O)=O)C(NCCCCC)=O)CC1=CC=CC=C1 | C27H35N5O6S
